US07893058B2
Step 1: 4-Bromo-2-(tetrahydro-pyran-2-yl)-2H-pyrazole-3-carbonitrile
4-Bromo-1H-pyrazole-3-carbonitrile (150 mg, 0.87 mmol) is dissolved in 3,4-dihydro-2H-pyran (25 mL, 2.6 mmol) in the presence of a catalytic amount of TFA (1 mg, 0.009 mmol). The reaction mixture is stirred at 95° C. for 1 hour, cooled and then quenched using NaH (1.2 mg, 0.052 mmol). After removing the solvent, the residue is purified by silica gel column chromatography eluting with a mixture of 3:1 petroleum ether-dichloromethane, followed by 10:1 petroleum ether-ethyl acetate. The fractions containing the desired compounds are collected and concentrated in vacuo to afford the title compound as a colorless oil (90 mg, 40%).

reactant | 4-Bromo-1H-pyrazole-3-carbonitrile | 0.87 mmol, 150 mg | BrC=1C(=NNC1)C#N | C4H2BrN3
reactant | 3,4-dihydro-2H-pyran | 2.6 mmol, 25 mL | O1CCCC=C1 | C5H8O
reactant | NaH | 0.052 mmol, 1.2 mg | [H-].[Na+]
catalyst | TFA | 0.009 mmol, 1 mg | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Bromo-2-(tetrahydro-pyran-2-yl)-2H-pyrazole-3-carbonitrile | 90 mg, 40% | BrC1=C(N(N=C1)C1OCCCC1)C#N | C9H10BrN3O
